US05863917
A mixture of 1,2-diamino-4-chloro-5-methylbenzene hydrochloride [J Chem Soc, 117, 784 (1920)] (1.90 g, 9.84 mmol), oxalic acid (1.24 g, 13.8 mmol) and 4M hydrochloric acid (49 ml) was heated at reflux for 4.5 hours. After cooling the solid precipitate was collected by filtration, washed well with water and dried under reduced pressure at 80° C. to afford 1,4-dihydro-6-chloro-7-methylquinoxalin-2,3-dione (1.68 g, 81%) as a dark grey solid, mp>330° C.

reactant | 1,2-diamino-4-chloro-5-methylbenzene hydrochloride | 9.84 mmol, 1.90 g | Cl.NC1=C(C=C(C(=C1)C)Cl)N
reactant | oxalic acid | 13.8 mmol, 1.24 g | C(C(=O)O)(=O)O | C2H2O4
reactant | hydrochloric acid | 4M, 49 ml | Cl | ClH
product | 1,4-dihydro-6-chloro-7-methylquinoxalin-2,3-dione | 1.68 g, 81% | ClC=1C=C2NC(C(NC2=CC1C)=O)=O | C9H7ClN2O2
